US06562828B1
7-Hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Tert-butyl Ester
7-Hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (370 mg) was dissolved in 1N aqueous sodium hydroxide solution (4 ml) and 1,4-dioxane (8 ml) and di-tert-butyl dicarbonate (386 mg) was added, which was followed by stirring at room temperature overnight. The reaction mixture was extracted with ethyl acetate and the organic layer was washed with saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to give the title compound (385 mg).

reactant | 7-Hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 370 mg | Br.OC1=CC=C2CCNCC2=C1
reactant | 1,4-dioxane | 8 ml | O1CCOCC1 | C4H8O2
reactant | di-tert-butyl dicarbonate | 386 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 1N, 4 ml | [OH-].[Na+]
product | 7-Hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid Tert-butyl Ester | 385 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)O | C14H19NO3
